US06969723B2
c.) 3-Methyl-N-(3-methylbenzoyl)-N-(4-benzylamino-3-cyanoquinoline-2-yl)benzamide
To the solution of 5 g of 2-amino-3-cyano-4-benzylaminoquinoline in 30 ml of pyridine 6 ml of 3-methylbenzoyl chloride are dropped, under stirring at 0° C. The reaction mixture is stirred at 80° C. for 8 hour, then it is poured onto 150 ml of ice-water. The precipitate is filtered off, washed twice with 40 ml of water. The resulting white crystalline material is recrystallized from 200 ml of ethanol to give 9.2 g of the title compound, mp.: 234° C.

reactant | 2-amino-3-cyano-4-benzylaminoquinoline | 5 g | NC1=NC2=CC=CC=C2C(=C1C#N)NCC1=CC=CC=C1 | C17H14N4
reactant | 3-methylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-Methyl-N-(3-methylbenzoyl)-N-(4-benzylamino-3-cyanoquinoline-2-yl)benzamide | 9.2 g | CC=1C=C(C(=O)N(C2=NC3=CC=CC=C3C(=C2C#N)NCC2=CC=CC=C2)C(C2=CC(=CC=C2)C)=O)C=CC1 | C33H26N4O2
